US07459552B2
Synthesis of 3-tert-butoxycarbonylamino-2,6-dimethyl-4-trifluoromethylpyridine
2,6-Dimethyl-4-trifluoromethylpyridine-3-carboxylic acid hydrochloride (23.17 g, 90.6 mmol) was suspended in tert-butanol (175 mL). Diphenylphosphonic azide (35.25 g, 128.1 mmol) and triethylamine (31.36 g, 309.9 mmol) were added to the suspension, followed by refluxing for 3 hours. The reaction mixture was allowed to stand for cooling. Subsequently, water (100 mL) was added to the mixture, followed by extraction with chloroform. The obtained organic layer was dried over sodium sulfate anhydrate, followed by concentration under reduced pressure. The obtained residue was purified through silica gel column chromatography (eluent: n-hexane: acetone=10:1), to thereby yield 3-tert-butoxycarbonylamino-2,6-dimethyl-4-trifluoromethylpyridine as a pale yellow oil (18.01 g, 68%).

reactant | 2,6-Dimethyl-4-trifluoromethylpyridine-3-carboxylic acid hydrochloride | 90.6 mmol, 23.17 g | Cl.CC1=NC(=CC(=C1C(=O)O)C(F)(F)F)C
reactant | Diphenylphosphonic azide | 128.1 mmol, 35.25 g | C1=CC=C(C=C1)OP(=O)(N=[N+]=[N-])OC2=CC=CC=C2 | C12H10N3O3P
reactant | triethylamine | 309.9 mmol, 31.36 g | C(C)N(CC)CC | C6H15N
reactant | water | 100 mL | O | H2O
reactant | tert-butanol | 175 mL | C(C)(C)(C)O | C4H10O
product | 3-tert-butoxycarbonylamino-2,6-dimethyl-4-trifluoromethylpyridine | C(C)(C)(C)OC(=O)NC=1C(=NC(=CC1C(F)(F)F)C)C | C13H17F3N2O2
